US05202437
To a solution of (2S,4S)-2-(methanesulfonyloxy)-methyl-1-(4-nitrobenzyloxycarbonyl)-4-(triphenylmethylthio)pyrrolidine (8.76 g) in dimethylformamide (80 ml) were added (2S)-2-(hydroxymethyl)pyrrolidine (8.72 g) and triethylamine (3.86 ml) and the mixture was stirred at 100° C. for 5 hours. The reaction mixture was poured into ice-water (300 ml) and extracted twice with ethyl acetate (200 ml). The extract was washed with saturated aqueous sodium chloride, dried over magnesium sulfate and evaporated in vacuo. The resulting residue was chromatographed on silica gel (150 g) eluting with a mixture of dichloromethane and acetone (2:1, V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give (2S,4S)-2-[(2S)-2-(hydroxymethyl)pyrrolidin-1-yl]methyl-1-(4-nitrobenzyloxycarbonyl)-4-(triphenylmethylthio)pyrrolidine (5.75 g).

reactant | (2S,4S)-2-(methanesulfonyloxy)-methyl-1-(4-nitrobenzyloxycarbonyl)-4-(triphenylmethylthio)pyrrolidine | 8.76 g | CS(=O)(=O)O[C@@]1(N(C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C | C33H32N2O7S2
reactant | (2S)-2-(hydroxymethyl)pyrrolidine | 8.72 g | OC[C@H]1NCCC1 | C5H11NO
reactant | triethylamine | 3.86 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | (2S,4S)-2-[(2S)-2-(hydroxymethyl)pyrrolidin-1-yl]methyl-1-(4-nitrobenzyloxycarbonyl)-4-(triphenylmethylthio)pyrrolidine | 5.75 g | OC[C@H]1N(CCC1)C[C@H]1N(C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C37H39N3O5S
